US04663453
A slurry was prepared from 5-bromoindoline (9.85 g, 50 mmoles) dimethylsulfoxide (DMSO) (35 ml), sodium hydride (2.6 g, 50% in oil, washed with hexane, 1.1 eq). The slurry was stirred for 30 minutes. To this a solution of o-fluorobenzamide (7.9 g, 1.1 eq) in DMSO (15 ml) was added dropwise with temperature between 12°-13° C. At the end of addition the reaction mixture was stirred at ambient temperature for 4 hours, then heated up to 55° C. for 24 hours. The reaction mixture was partitioned between dichloromethane (300 ml) and water (250 ml). The aqueous phase was separated and extracted twice with dichloromethane (DCM) (150 ml). The combined DCM solution was washed twice with water (100 ml), twice with 2N HCl (100 ml), twice with brine (50 ml), dried over Na2SO4 and concentrated to a solid. Purification was on a flash chromatographic column (150 gm of silica gel) eluted with dichloromethane (DCM) (3 l). This gave 6.4 g of product (40%). Recrystallization from a small amount of ether yielded the 2-(5-bromo-indolin-1-yl)benzamide, m.p. 120°-122° C.

reactant | 5-bromoindoline | 50 mmoles, 35 ml, 9.85 g | BrC=1C=C2CCNC2=CC1 | C8H8BrN
reactant | sodium hydride | 2.6 g, 1.1 eq | [H-].[Na+]
reactant | o-fluorobenzamide | 7.9 g, 1.1 eq | FC1=C(C(=O)N)C=CC=C1 | C7H6FNO
solvent | DMSO | 15 ml | CS(=O)C | C2H6OS
product | 2-(5-bromo-indolin-1-yl)benzamide | BrC=1C=C2CCN(C2=CC1)C1=C(C(=O)N)C=CC=C1 | C15H13BrN2O
